US06599890B1
To a stirred, cold (−78° C.) solution of (2R)-2-benzyloxycarbonylamino-pentanedioic acid 1-tert-butyl ester 5-methyl ester (5.6 g, 15.9 mmol), prepared as described in J. Org. Chem., 55, 1711-1721 (1990) and J. Med. Chem., 39, 73-85 (1996), in 30 mL of tetrahydrofuran was added lithium bis(trimethylsilyl)amide (40 mL, 1 M in tetrahydrofuran, 39.8 mmol). The resulting mixture was stirred for 1 hour at −45° C. and then recooled to −78° C. Allyl bromide (5.2 mL, 63.7 mmol) was then added. After 2 hours the reaction was quenched by the addition of 1 M aqueous hydrogen chloride at −78° C. The mixture was then extracted with diethyl ether. The combined ethereal extracts were washed with brine and the mixture was dried over sodium sulfate. After filtration and concentration of the filtrate, the crude product was purified by silica gel chromatography (elution with 1:5 ethyl acetate/hexanes) to provide (2R,4R)-4-allyl-2-benzyloxycarbonylamino-pentanedioic acid 1-tert-butyl ester 5-methyl ester.

reactant | (2R)-2-benzyloxycarbonylamino-pentanedioic acid 1-tert-butyl ester 5-methyl ester | 15.9 mmol, 5.6 g | COC(CC[C@H](C(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C18H25NO6
reactant | lithium bis(trimethylsilyl)amide | 39.8 mmol, 1 M, 40 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | Allyl bromide | 63.7 mmol, 5.2 mL | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (2R,4R)-4-allyl-2-benzyloxycarbonylamino-pentanedioic acid 1-tert-butyl ester 5-methyl ester | COC([C@@H](C[C@H](C(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)CC=C)=O | C21H29NO6
